US08497368B2
To a solution of the 6-(1-ethoxyvinyl)-3-(1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethyl)-imidazo[1,2-b]pyridazine (450 mg, 0.985 mmol) in acetic acid (8 mL), was added 3N HCl (0.5 mL). The solution was stirred at rt for 2 h and the solvents were removed under reduced pressure. The residue was diluted with water and its pH was adjusted to basic with aqueous NaHCO3, extracted with DCM. The organic layer was washed with NaHCO3(aq) and brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography to give yellow solid 1-(3-(1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone (300 mg, 81%). LCMS (method B): [MH]+=338, tR=2.49 min.

reactant | 6-(1-ethoxyvinyl)-3-(1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethyl)-imidazo[1,2-b]pyridazine | 0.985 mmol, 450 mg | C(C)OC(=C)C=1C=CC=2N(N1)C(=CN2)C(C)C=2C=C1C=NN(C1=CC2F)C | C20H20FN5O
reactant | HCl | 3N, 0.5 mL | Cl | ClH
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 1-(3-(1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone | 300 mg, 81% | FC1=C(C=C2C=NN(C2=C1)C)C(C)C1=CN=C2N1N=C(C=C2)C(C)=O | C18H16FN5O
